US04310505
6-(5-Cholesten-3β-yloxy)hexyl 6-amino-6-deoxy-1-thio-β-D-galactopyranoside
A suspension of 6-(5-cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranoside (710 mg.) in methanol (10 ml.) and n-butylamine (10 ml.) is heated under reflux for 16 hours. The solution is evaporated to a crystalline mass. Chloroform is added and the solid is filtered and washed with chloroform. The combined filtrates are evaporated to a syrup which is put on a column of silica gel and eluted with chloroform-methanol-ammonium hydroxide (80:20:2). The desired fractions are combined and evaporated to a syrup which is triturated with ethyl ether to give crystals (390 mg. 76%); Rf 0.28 (CHCl3 --MeOH--NH4OH, 80:20:2), [α]D27 -29.5° C. (C 1.05, chloroform), m.s.: m/e 665 (M+ +1).

reactant | 6-(5-cholesten-3β-yloxy)hexyl 2,3,4-tri-O-acetyl-6-deoxy-6-phthalimido-1-thio-β-D-galactopyranoside | 710 mg | C(C)(=O)O[C@H]1[C@H](SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)CN1C(C=2C(C1=O)=CC=CC2)=O | C53H77NO10S
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 10 ml | CO | CH4O
solvent | n-butylamine | 10 ml | C(CCC)N | C4H11N
product | 6-(5-Cholesten-3β-yloxy)hexyl 6-amino-6-deoxy-1-thio-β-D-galactopyranoside | NC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](SCCCCCCO[C@@H]2CC3=CC[C@H]4[C@@H]5CC[C@H]([C@@H](CCCC(C)C)C)[C@]5(CC[C@@H]4[C@]3(CC2)C)C)O1)O)O)O | C39H69NO5S
